US05650410
A mixture of ethyl 2-chloromethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate (3.0 g), N-methyl-N-cyclohexylamine (2.28 g) and ethanol (45 ml) was stirred under reflux for 6 hours. The reaction mixture was poured into water and extracted with dichloromethane. The dichloromethane layer was washed with water and dried over magnesium sulfate, and the solvent was evaporated. The residue was subjected to column chromatography on silica gel. The fractions eluted with chloroform gave ethyl 2-(N-cyclohexyl-N-methylaminomethyl)-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate (2.80 g, 80%). This compound was recrystallized from ethanol. Colorless prisms, mp. 172°-174° C.

reactant | ethyl 2-chloromethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate | 3.0 g | ClCC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC(=C(C=C1)OC)OC)OC)OC | C23H24ClNO6
reactant | N-methyl-N-cyclohexylamine | 2.28 g | CNC1CCCCC1 | C7H15N
reactant | ethanol | 45 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | ethyl 2-(N-cyclohexyl-N-methylaminomethyl)-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate | 2.80 g, 80% | C1(CCCCC1)N(C)CC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC(=C(C=C1)OC)OC)OC)OC | C30H38N2O6
